US04764514
A solution of 4-oxothiazolidine (3.00 g) in tetrahydrofuran (40 ml) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil) (1.28 g) in tetrahydrofuran (30 ml) at room temperature with stirring. 3-Bromo-1-chloropropane (3.15 ml) was added dropwise to the mixture under refluxing and the mixture was allowed to reflux for 9 hours. After the resultant precipitate was removed by filtration, the filtrate was evaporated in vacuo. The residue was chromatographed on basic alumina by eluting with ethyl acetate and then with a 10:1 mixture of toluene and ethyl acetate to give 3-(3-chloropropyl)-4-oxothiazolidine (2.60 g) as colorless oil.

reactant | 4-oxothiazolidine | 3.00 g | O=C1NCSC1 | C3H5NOS
reactant | sodium hydride | 1.28 g | [H-].[Na+]
reactant | 3-Bromo-1-chloropropane | 3.15 ml | BrCCCCl | C3H6BrCl
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(3-chloropropyl)-4-oxothiazolidine | 2.60 g | ClCCCN1CSCC1=O | C6H10ClNOS
